US05296495
A mixture of DL-α-(5-methoxybenzofuran-2-yl)carbonylamino-ε-caprolactam (0.2 g) and phosphorus pentasulfide (0.2 g) in pyridin (2 ml) was stirred under reflux for 6.5 hours. After being cooled, the resulting mixture was poured into ice-water, and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give crude crystal, which was collected by filtration and washed with ethanol to give 2-(5-methoxybenzofuran-2-yl)-4,5,6,7-tetrahydro-8H-thiazolo[5,4-b]azepine (0.09 g).

reactant | α-(5-methoxybenzofuran-2-yl)carbonylamino-ε-caprolactam | 0.2 g | COC=1C=CC2=C(C=C(O2)C(=O)NC2C(=O)NCCCC2)C1 | C16H18N2O4
reactant | phosphorus pentasulfide | 0.2 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridin | 2 ml | N1=CC=CC=C1 | C5H5N
product | 2-(5-methoxybenzofuran-2-yl)-4,5,6,7-tetrahydro-8H-thiazolo[5,4-b]azepine | 0.09 g | COC=1C=CC2=C(C=C(O2)C=2SC=3NCCCCC3N2)C1 | C16H16N2O2S
